US05677459
Carbobenzyloxy-L-proline (37.4 g, 150 mmol) was dissolved in DME (100 mL) and cooled to 0° C. with stirring. Sodium borohydride (1.89 g, 50 mmol) was added in portions (gas evolution) and the resulting mixture was stirred for 2 h at 25° C. affording a colorless solution. The solvents were removed in vacuo and the resulting gum dissolved in methylene chloride (50 mL). To this solution was added a mixture of 5-bromo-3-(2-pyrrolin-1-yl) pyridine (5.63 g, 25 mmol) and carbobenzyloxy-L-proline (6.23 g, 25 mmol) in methylene chloride (50 mL) and this was stirred at 25° C. for 36 h. The solvent was removed in vacuo and 6M HCl (200 mL) was added to the residue. The resulting solution was extracted with isopropyl acetate (200 mL) and the phases separated. The acidic aqueous phase was basified with solid NaOH to pH 14 and then extracted with methylene chloride (3×200 mL). The combined methylene chloride extracts were washed with brine (150 mL), dried (MgSO4) and concentrated in vacuo. The crude product was chromatographed on silica gel with ethyl acetate, then methanol:ethyl acetate (1:19 to 1:9) as eluants to afford 5-bromo-3-(2-pyrrolidinyl)pyridine (4.1 g, 72%) obtained as a pale yellow oil. LRMS (EI) m/e 227 (C9H11N281 Br--H+), 225 (C9H11N279Br--H+); 1H NMR (DMSO-d6, 300 MHz) δ 8.53 (d, J=2.2 Hz, 1H), 8.49 (d, J=1.8 Hz, 1H), 7.91 (t, J=2.0 Hz, 1H), 4.17 (t, J=7.7 Hz, 1H), 3.18 (m, 1H), 3.06 (m, 1H), 2.00 (m, 1H), 2.07 (s, 1H), 2.00-1.77 (m, 2H), 1.63 (m, 1H).

reactant | Carbobenzyloxy-L-proline | 150 mmol, 37.4 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | Sodium borohydride | 50 mmol, 1.89 g | [BH4-].[Na+]
reactant | 5-bromo-3-(2-pyrrolin-1-yl) pyridine | 25 mmol, 5.63 g | BrC=1C=C(C=NC1)N1C=CCC1 | C9H9BrN2
reactant | carbobenzyloxy-L-proline | 25 mmol, 6.23 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-(2-pyrrolidinyl)pyridine | 4.1 g, 72% | BrC=1C=C(C=NC1)C1NCCC1 | C9H11BrN2
